US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]piperidine-4-carboxamide
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and piperidine-4-carboxamide. MS obsd. (ESI+) [(M+H)+] 465, 1H NMR (400 MHz, CD3OD) δ ppm 8.50 (s, 1 H), 8.14 (s, 1 H), 8.01-7.98 (d, J=1.2 Hz, 1 H), 7.95-7.93 (d, J=7.2 Hz, 1 H), 7.84-7.82 (d, J=8.8 Hz, 1 H), 7.66-7.61 (m, 2 H), 7.52-7.51 (m, 1 H), 5.23 (s, 1 H), 4.59 (s, 2 H), 3.74 (s, 2 H), 3.57-3.54 (m, 2 H), 3.22-3.10 (m, 4 H), 2.50 (s, 3 H), 2.26-2.22 (m, 2 H), 2.14-2.08 (m, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | piperidine-4-carboxamide | N1CCC(CC1)C(=O)N | C6H12N2O
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]piperidine-4-carboxamide | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(=O)C2CCNCC2)C)=O | C25H28N4O3S
